US08030518B2
Step F: N-(1-(4-fluorophenylamino)-4,6-dimethyl-2,3-dihydro-1H-inden-5-yl)-3,3-dimethylbutanamide
A mixture of N-(4,6-dimethyl-1-oxo-indan-5-yl)-3,3-dimethyl-butyramide (5 g, 19 mmol), 4-fluoroaniline (5 g, 45 mmol), and decaborane (4.5 g, 36.8 mmol) in 100 ml of anhydrous methanol was stirred for 2 days at room temperature in an high pressure reaction equipment. The reaction mixture was poured into 500 ml of ice-water with strong stirring and the precipitates were filtered and washed with water. The dried solid was crystallized from hexane/ethyl acetate (5:1) to give white crystals (6 g, 86%). 1H-NMR δ (DMSO-d6, 400 MHz): 9.08 (brs, 1H, exchangeable with D2O, NH), 6.98 (s, 1H), 6.92 (t, J=8.8 Hz, 2H), 6.69 (dd, J=4.8 and 8.8 Hz, 2H), 5.76 (d, J=8.0 Hz, 1H, exchangeable with D2O, NH), 4.86 (q, J=8.0 Hz, 1H), 2.86 (ddd, J=4.8, 8.7 and 16.2 Hz, 1H), 2.70 (quint, J=8.1 Hz, 1H), 2.46 (m, 1H), 2.22 (s, 2H), 2.11 (s, 3H), 2.06 (s, 3H), 1.74 (m, 1H), 1.07 (s, 9H). MS: 369 (M+1).

reactant | N-(4,6-dimethyl-1-oxo-indan-5-yl)-3,3-dimethyl-butyramide | 19 mmol, 5 g | CC1=C2CCC(C2=CC(=C1NC(CC(C)(C)C)=O)C)=O | C17H23NO2
reactant | 4-fluoroaniline | 45 mmol, 5 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | decaborane | 36.8 mmol, 4.5 g | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 100 ml | CO | CH4O
product | N-(1-(4-fluorophenylamino)-4,6-dimethyl-2,3-dihydro-1H-inden-5-yl)-3,3-dimethylbutanamide | 6 g, 86% | FC1=CC=C(C=C1)NC1CCC2=C(C(=C(C=C12)C)NC(CC(C)(C)C)=O)C | C23H29FN2O
